US07897631B2
4-Pent-4-ynyl-1H-imidazol-2-ylamine hydrochloride (0.063 g, 0.340 mmol) was reacted with 3-azidomethyl-furan (0.050 g, 0.406 mmol) following the general procedure for click reactions outlined above to produce 4-[3-(1-Furan-3-ylmethyl-1H-[1,2,3]triazol-4-yl)-propyl]-1Himidazol-2-ylamine hydrochloride (0.061 g, 58%) as a pale yellow solid. 1H NMR (300 MHz, CD3OD) δ 7.70 (s, 1H), δ 7.56 (s, 1H), δ 7.41 (s, 1H), δ 6.44 (s, 1H), δ 6.35 (s, 1H), δ 5.35 (s, 2H), δ 2.65 (t, 2H), δ 2.45 (t, 2H), δ 1.86 (m, 2H) ppm; 13C NMR (75 MHz, CD3OD) δ 147.3, 147.3, 144.2, 141.6, 127.2, 122.1, 120.2, 109.9, 108.8, 44.7, 27.8, 24.2, 23.6 ppms; HRMS (ESI) calcd for C13H16N6O (M+) 272.1458. found 272.1462.

reactant | 4-Pent-4-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.340 mmol, 0.063 g | Cl.C(CCC#C)C=1N=C(NC1)N
reactant | 3-azidomethyl-furan | 0.406 mmol, 0.050 g | N(=[N+]=[N-])CC1=COC=C1 | C5H5N3O
product | 4-[3-(1-Furan-3-ylmethyl-1H-[1,2,3]triazol-4-yl)-propyl]-1Himidazol-2-ylamine hydrochloride | 0.061 g, 58% | Cl.O1C=C(C=C1)CN1N=NC(=C1)CCCC=1N=C(NC1)N | InChI=1S/C13H16N6O.ClH/c14-13-15-6-11(16-13)2-1-3-12-8-19(18-17-12)7-10-4-5-20-9-10;/h4-6,8-9H,1-3,7H2,(H3,14,15,16);1H
